US06187802B1
A solution of 1-(4-chlorophenyl)cyclobutanecarbonitrile (35 g) in toluene (100 ml) was added dropwise at reflux temperature under nitrogen to a stirred solution of phenethylmagnesium bromide [prepared in the usual manner from phenethyl bromide (45.6 g) and magnesium (6.24 g)] in ether (100 ml). When the addition was completed, ether was distilled from the mixture until the internal temperature rose to 110° C., then stirring at this temperature was continued for 18 hours. The mixture was then cooled to ambient temperature, added to a mixture of ice (200 g) and concentrated hydrochloric acid (100 ml), heated at 95° C. with occasional stirring for 4 hours, and cooled to ambient temperature. The product was extracted into dichloromethane (3×200 ml), and the combined extracts were washed with water (100 ml), saturated aqueous sodium carbonate solution (2×100 ml) and water (100 ml), dried (Na2SO4), and the solvent was removed in vacuo. The residue was distilled to give 1-[1-(4-chlorophenyl)cyclobutyl]-3-phenylpropan-1-one as a yellow oil (38.8 g), b.p. 178-181° C./1.3 mbar.

reactant | 1-(4-chlorophenyl)cyclobutanecarbonitrile | 35 g | ClC1=CC=C(C=C1)C1(CCC1)C#N | C11H10ClN
reactant | phenethylmagnesium bromide | C(CC1=CC=CC=C1)[Mg]Br
reactant | phenethyl bromide | 45.6 g | C(CC1=CC=CC=C1)Br | C8H9Br
reactant | magnesium | 6.24 g | [Mg] | Mg
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 1-[1-(4-chlorophenyl)cyclobutyl]-3-phenylpropan-1-one | 38.8 g | ClC1=CC=C(C=C1)C1(CCC1)C(CCC1=CC=CC=C1)=O | C19H19ClO
